US05145843
5,7-Dichloro-4-(4-fluorophenoxy)quinoline
A mixture of 29.11 g of 4,5,7-trichloroquinoline and 16.84 g of 4-fluorophenol was heated to 160° C. After approximately 40 minutes, the molten solution solidified. The solid was dissolved in ethyl acetate and 2N NaOH. The organic layer was washed with base to remove excess phenol, then dried. Solvent was removed by reducing pressure, and the residue was purified by recrystallizing in heptane to produce 29.49 g of the title product. M.P. 105°-106° C.

reactant | 4,5,7-trichloroquinoline | 29.11 g | ClC1=CC=NC2=CC(=CC(=C12)Cl)Cl | C9H4Cl3N
reactant | 4-fluorophenol | 16.84 g | FC1=CC=C(C=C1)O | C6H5FO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaOH | 2N | [OH-].[Na+]
product | 5,7-Dichloro-4-(4-fluorophenoxy)quinoline | 29.49 g | ClC1=C2C(=CC=NC2=CC(=C1)Cl)OC1=CC=C(C=C1)F | C15H8Cl2FNO
